simulator lang=spectre
global 0

ahdl_include "../submission/common_gate_tia_front_end.va"

Vvin_proxy (vin_proxy 0) vsource type=pwl wave=[0 0.42 10n 0.42 18n 0.72 30n 0.72 40n 0.16 52n 0.16 66n 0.62 78n 0.62]
Vbias (bias 0) vsource type=pwl wave=[0 0.24 14n 0.24 24n 0.68 45n 0.68 58n 0.28 78n 0.62]
Venable (enable 0) vsource type=pwl wave=[0 0 4n 0 4.1n 0.9 52n 0.9 52.1n 0 58n 0 58.1n 0.9 78n 0.9]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.7n 0.9 1.8n 0 78n 0]

XDUT (vin_proxy bias enable rst vout transimpedance_metric overload) common_gate_tia_front_end


tran tran stop=78n maxstep=80p
save vin_proxy bias enable rst vout transimpedance_metric overload
